US04973731
Using the method of Example 1, 20.6 g (0.10 mole) of alpha-bromo-o-tolunitrile was reacted with 3,5-di-t-butylphenol to give 9.9 g of white crystalline 2-(3,5-di-t-butylphenoxymethyl)-1-benzenecarbonitrile.

reactant | alpha-bromo-o-tolunitrile | 0.10 mole, 20.6 g | BrCC=1C(=CC=CC1)C#N | C8H6BrN
reactant | 3,5-di-t-butylphenol | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)O | C14H22O
product | 2-(3,5-di-t-butylphenoxymethyl)-1-benzenecarbonitrile | 9.9 g | C(C)(C)(C)C=1C=C(OCC2=C(C=CC=C2)C#N)C=C(C1)C(C)(C)C | C22H27NO
